US05538987
2-Butyl-4-chloro-5-formyl-1-[(2-methoxycarbonyl-1,1'-biphenyl-4-yl)methyl]-1H-imidazole
A mixture of 4.5 g of 2-butyl-4-chloro-5-formylimidazole and 6.75 g of K2CO3 in 200 ml of anhydrous DMF under nitrogen atmosphere is added under stirring with a solution of 8.1 g of methyl 4'-bromomethyl-1,1'-biphenyl-2-carboxylate in 10 ml of anhydrous DMF. The mixture is stirred at room temperature for 2 hours then concentrated under reduced pressure to 50 ml, poured into 500 ml of H2O and extracted with CH2Cl2. The organic phase is washed with H2O, dried over Na2SO4 and evaporated to dryness under reduced pressure. 9 of an orange oil are obtained which is used without further purification. 1H NMR (CDCl3), δ: 0.89 (t, 3 H); 1.45 (m, 2 H); 1.72 (m, 2 H); 2.66 (m, 2 H); 3.62 (s, 3 H); 5.59 (s, 2 H); 7.02-7.88 (m, 8 H); 9.76 (s, 1 H).

reactant | 2-butyl-4-chloro-5-formylimidazole | 4.5 g | C(CCC)C=1NC(=C(N1)Cl)C=O | C8H11ClN2O
reactant | K2CO3 | 6.75 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl 4'-bromomethyl-1,1'-biphenyl-2-carboxylate | 8.1 g | BrCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC | C15H13BrO2
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-Butyl-4-chloro-5-formyl-1-[(2-methoxycarbonyl-1,1'-biphenyl-4-yl)methyl]-1H-imidazole | C(CCC)C=1N(C(=C(N1)Cl)C=O)CC1=CC(=C(C=C1)C1=CC=CC=C1)C(=O)OC | C23H23ClN2O3
